US04297516
Trimethylsilyl methoxyacetate
To a solution of 87 g. of methoxyacetic acid in a mixture of 100 ml of tetrahydrofuran and 50 ml. of pyridine at 0° C. is added dropwise 155.8 g. of hexamethyldisilazane followed, dropwise, by 52.5 g. of chlorotrimethylsilane. The mixture is stirred overnight, diluted with petroleum ether and filtered through Celite. The petroleum ether is removed by roto-evaporation at 30° C. and the residue is distilled (aspirator pressure) giving, after a forerun of solvents, a fraction at 54°-55° C. of the desired product.

reactant | methoxyacetic acid | COCC(=O)O | C3H6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Trimethylsilyl methoxyacetate | COCC(=O)O[Si](C)(C)C | C6H14O3Si
